US09145441B2
Compound 91b: (2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid methyl ester
(2S,3R)-2-tert-Butoxycarbonylamino-3-hydroxy-butyric acid methyl ester (1.85 g, 7.93 mmol) was dissolved in N,N-dimethylformamide (10 mL), under an atmosphere of nitrogen. tert-Butyl(chloro)diphenylsilane (2.89 mL, 11.1 mmol) was added followed by imidazole (1.08 g, 15.9 mmol) and the reaction was left to stir for 72 h. The reaction mixture was diluted with water and then extracted with ethyl acetate. The combined organics were dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography using a stepwise gradient iso-hexanes/ethyl acetate from 1:0 to 4:1 to afford the title compound (3.56 g, 95%) as a pale Greene oil. 1H NMR (300 MHz, CDCl3) δ 0.89 (d, J=6.6 Hz, 3H), 1.04 (s, 9H), 1.10 (s, 9H), 3.64 (s, 3H), 4.18-4.26 (m, 1H), 4.39-4.50 (m, 1H), 5.34 (d, J=9.9 Hz, 1H), 7.36-7.50 (m, 6H), 7.60-7.69 (m, 2H), 7.71-7.77 (m, 2H). LCMS (m/z) 472.2 [M+H], Tr=4.13 min.

reactant | (2S,3R)-2-tert-Butoxycarbonylamino-3-hydroxy-butyric acid methyl ester | 7.93 mmol, 1.85 g | COC([C@H]([C@@H](C)O)NC(=O)OC(C)(C)C)=O | C10H19NO5
reactant | tert-Butyl(chloro)diphenylsilane | 11.1 mmol, 2.89 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 15.9 mmol, 1.08 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2S,3R)-2-tert-Butoxycarbonylamino-3-(tert-butyl-diphenyl-silanyloxy)-butyric acid methyl ester | 3.56 g, 95% | COC([C@H]([C@@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H37NO5Si
